US07786132B2
(ii) 1-(2-Amino-ethyl)-5,5-dimethyl-imidazolidin-2-one
[2-(5,5-Dimethyl-2-oxo-imidazolidin-1-yl)-ethyl]-carbamic acid tert-butyl ester (450 mg, 1.75 mmol) was dissolved in DCM (5 mL) and TFA (1 mL) was added. The mixture was allowed to stand for 16 h, concentrated, and purifed by SCX ion exchange chromatography to give the product as a yellow oil (256 mg, 93%).

reactant | [2-(5,5-Dimethyl-2-oxo-imidazolidin-1-yl)-ethyl]-carbamic acid tert-butyl ester | 1.75 mmol, 450 mg | C(C)(C)(C)OC(NCCN1C(NCC1(C)C)=O)=O | C12H23N3O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Amino-ethyl)-5,5-dimethyl-imidazolidin-2-one | 256 mg, 93% | NCCN1C(NCC1(C)C)=O | C7H15N3O
